US08957260B2
If this procedure is not adopted, but instead a solvent rendered alkaline is admixed with a mixture of hydrogen peroxide and mesitol, then the yields of product 2,4,6-trimethylquinol obtained are not as high as can be seen in example 31.

reactant | hydrogen peroxide | OO | H2O2
reactant | mesitol | C1(=C(C(=CC(=C1)C)C)O)C | C9H12O
product | 2,4,6-trimethylquinol | CC1=C(O)C(=CC(C1)(O)C)C | C9H14O2
